US07202350B2
Water (0.6 ml) and N-bromosuccinimide (6.1 g) was added to a solution of 5-methyl-1H-indene (4.4 g) in dimethylsulfoxide (50 ml), and the mixture was stirred for 40 minutes at room temperature. The reaction mixture was poured into ice-cooled water, and extracted with ether. The organic layer was washed with water, 5% sodium hydrogencarbonate aqueous solution, and saturated saline solution in order and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated, and the resulting crystals were washed with hexane to obtain, by filtration, 2-bromo-6-methylindane-1-ol (4.4 g). To a solution of 2-bromo-6-methylindane-1-ol in toluene (50 ml) was added p-toluene sulfonic acid monohydrate (0.1 g), and the mixture was stirred for 20 minutes. The temperature of the reaction mixture was returned to room temperature, and the reaction mixture was washed with water, 5% sodium hydrogencarbonate aqueous solution, and saturated saline solution in order and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated, and the residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain 2-bromo-5-methyl-1H-indene (1.7 g).

reactant | 2-bromo-6-methylindane-1-ol | BrC1C(C2=CC(=CC=C2C1)C)O | C10H11BrO
reactant | p-toluene sulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-5-methyl-1H-indene | 1.7 g | BrC=1CC2=CC=C(C=C2C1)C | C10H9Br
